US06555519B2
A solution of Part C methyl 2,6-diacetoxybenzoate (3.4 g, 14 mmol) and LiOH.H2O (60 mg, 1.5 mmol) in 2:2:1 MeOH/THF/H2O (30 mL) was stirred for 2 hr at 20° until tlc analysis (4:1 hexane/EtOAc) revealed comparable amounts of starting bis-acetate and methyl 2,6-dihydroxybenzoate. The solution was quenched with pH 7 Na2HPO4 buffer, diluted with H2O prior to 4 EtOAc extractions. The combined organic phase was washed with H2O 2×, brine 1× prior to drying over Na2SO4. After removal of the volatiles, chromatography on silica gel using 3:2 hexane/CH2Cl2 eluted 1.1 g of a 1:2 mixture of methyl 2,6-dihydroxybenzoate/methyl 2-acetoxy-6-hydroxybenzoate followed by 0.7 g of pure methyl 2-acetoxy-6-hydroxybenzoate. Re-chromatography of the mixed fraction yielded another 0.8 g of methyl 2-acetoxy-6-hydroxybenzoate.

reactant | methyl 2,6-diacetoxybenzoate | 14 mmol, 3.4 g | C(C)(=O)OC1=C(C(=O)OC)C(=CC=C1)OC(C)=O | C12H12O6
reactant | LiOH.H2O | 1.5 mmol, 60 mg | O[Li].O
reactant | MeOH THF H2O | 30 mL | CO.C1CCOC1.O
reactant | methyl 2,6-dihydroxybenzoate | OC1=C(C(=O)OC)C(=CC=C1)O | C8H8O4
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | methyl 2-acetoxy-6-hydroxybenzoate | 0.8 g | C(C)(=O)OC1=C(C(=O)OC)C(=CC=C1)O | C10H10O5
